US05552534
B. Methyl 2,3,6-tri-O-benzoyl-4-deoxy-α-D-glucopyranoside
To a solution of the crude methyl 2,3,6-tri-O-benzoyl-4-(methylthio)thiocarbonyl-α-D-glucopyranoside (5.70 g, 9.55 mmol) in 120 mL of dry toluene was added AIBN (50 mg). Tributyl tin hydride (6.68 mL, 24.8 mmol) was added and the reaction was heated to reflux for 4 hours. The toluene was removed under reduced pressure. Acetonitrile (200 mL) was added and the mixture extracted with petroleum ether (5×100 mL) to remove all tin salts. After drying over anhydrous sodium sulfate, the solvent was removed under reduced pressure to yield a clear colorless oil which solidified on standing. Purification by flash column chromatography using 20% ethyl acetate in petroleum ether as the eluant gave the target compound as a white solid.

reactant | methyl 2,3,6-tri-O-benzoyl-4-(methylthio)thiocarbonyl-α-D-glucopyranoside | 9.55 mmol, 5.70 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](OC)O[C@@H]([C@]([C@@H]1OC(C1=CC=CC=C1)=O)(O)C(=S)SC)COC(C1=CC=CC=C1)=O | C30H28O9S2
reactant | AIBN | 50 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | Tributyl tin hydride | 24.8 mmol, 6.68 mL | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2,3,6-tri-O-benzoyl-4-deoxy-α-D-glucopyranoside | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](OC)O[C@@H](C[C@@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C28H26O8
